US04980287
An amount of 18.2 g of 4-nitroanthranilic acid was dissolved in 50 ml of trifluoroacetic acid, and the resultant solution was cooled to a temperature of 0° C. To the cooled solution, 20 ml of trifluoroacetic anhydride were added dropwise and the mixture stirred for 2 hours while gradually heating to room temperature. The resultant reaction liquid was poured onto ice, and the resultant deposit was collected by filtration, washed with cold water, and then dried. The resultant crude product in an amount of 27 g was recrystallized from ethyl acetate-hexane mixed solvent. The resultant 4-nitro-N-trifluoroacetyl-anthranilic acid was obtained in an amount of 25.1 g and exhibited a melting point of 198° C.

reactant | 4-nitroanthranilic acid | 18.2 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)N | C7H6N2O4
reactant | trifluoroacetic anhydride | 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-nitro-N-trifluoroacetyl-anthranilic acid | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)NC(C(F)(F)F)=O | C9H5F3N2O5
